US06620839B2
(4-(3-chloropropoxy)phenyl)(cyclopropyl)methanone
Cyclopropyl(4-hydroxyphenyl)methanone (10 g, 61.7 mmol), K2CO3 (12.7 g, 91.9 mmol), and 1-bromo-3-chloropropane (10.74 g, 68.2 mmol) in 2-butanone (100 mL) were refluxed for 24 hours, allowed to cool to ambient temperature, filtered, and concentrated. The residue was heated at 40° C. under reduced pressure for three hours to provide the title compound of sufficient purity for subsequent use without further purification (13.25 g, 90%).

reactant | Cyclopropyl(4-hydroxyphenyl)methanone | 61.7 mmol, 10 g | C1(CC1)C(=O)C1=CC=C(C=C1)O | C10H10O2
reactant | K2CO3 | 91.9 mmol, 12.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-3-chloropropane | 68.2 mmol, 10.74 g | BrCCCCl | C3H6BrCl
solvent | 2-butanone | 100 mL | CC(CC)=O | C4H8O
product | (4-(3-chloropropoxy)phenyl)(cyclopropyl)methanone | ClCCCOC1=CC=C(C=C1)C(=O)C1CC1 | C13H15ClO2
